US07655671B2
4,5α-epoxy-17-methyl-14β-[(3-phenylpropyl)oxy]morphinan-6-one (compound 53)
A mixture of 4,5α-epoxy-17-methyl-14β-[(3-phenylpropyl)oxy]-3-[(1-phenyl-1H-tetrazol-5-yl)oxy]morphinan-6-one (6.20 g, 11.00 mmol), 10% Pd/C catalyst (2.48 g) and 100 ml glacial acetic acid was hydrogenated at 50 psi and 40° C. for 17 h. After filtering off the catalyst, the filtrate was reduced down to a volume of 30 ml, 150 ml of ice/water mixture was added to it and after alkalising with conc. NH4OH it was extracted with CH2Cl2 (1×100 ml, 3×75 ml). The combined organic phases were washed with saturated NaCl solution (4×200 ml), dried over Na2SO4 and evaporated down. The evaporation residue (4.15 g of yellowish oil, DC pure) was crystallised out of a little methanol and in this way 3.20 g (72%) of the compound 53 was obtained as colourless crystals. Fp. 105-109° C.; MS (CI): 404 (M++1); IR (KBr): 1721 (C═O) cm−1; 1H-NMR (DMSO-d6): δ 7.29-7.16 (m, 5 arom. H), 7.04 (t, J=8.0 Hz, 1 arom. H), 6.73 (d, J=8.0 Hz, 1 arom. H), 6.64 (d, J=8.0 Hz, 1 arom. H), 4.75 (s, 1H, C5-H), 2.28 (s, 3H, N17-CH3).

reactant | 4,5α-epoxy-17-methyl-14β-[(3-phenylpropyl)oxy]-3-[(1-phenyl-1H-tetrazol-5-yl)oxy]morphinan-6-one | 11.00 mmol, 6.20 g | O1C2=C(C=CC=3C[C@@H]4[C@@]5(CCC([C@H]1[C@@]5(C23)CCN4C)=O)OCCCC4=CC=CC=C4)OC4=NN=NN4C4=CC=CC=C4 | C33H33N5O4
reactant | KBr | [K+].[Br-]
catalyst | Pd/C | 2.48 g | [Pd] | Pd
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 4,5α-epoxy-17-methyl-14β-[(3-phenylpropyl)oxy]morphinan-6-one | O1C2=CC=CC=3C[C@@H]4[C@@]5(CCC([C@H]1[C@@]5(C23)CCN4C)=O)OCCCC4=CC=CC=C4 | C26H29NO3
